US09079866B2
2-((2-Bromophenyl)sulfonyl)-N,N-diethylacetamide
The title compound was prepared in a manner similar to that described for 2-((2-bromophenyl)sulfonyl)acetamide using 2-chloro-N,N-diethylacetamide in Step A. 1H NMR (600 MHz, DMSO-d6) δ 8.01-7.97 (m, 1H), 7.91-7.87 (m, 1H), 7.66-7.60 (m, 2H), 4.75 (s, 2H), 3.47-3.39 (q, J=7.1, 2H), 3.25-3.14 (q, J=7.0, 2H), 1.18-1.09 (t, J=7.1, 3H), 0.99-0.87 (t, J=7.0, 3H).

reactant | 2-((2-bromophenyl)sulfonyl)acetamide | BrC1=C(C=CC=C1)S(=O)(=O)CC(=O)N | C8H8BrNO3S
reactant | 2-chloro-N,N-diethylacetamide | ClCC(=O)N(CC)CC | C6H12ClNO
product | 2-((2-Bromophenyl)sulfonyl)-N,N-diethylacetamide | BrC1=C(C=CC=C1)S(=O)(=O)CC(=O)N(CC)CC | C12H16BrNO3S
